US09212187B2
Synthesis of 3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl)propionic acid
50% Sodium hydroxide aqueous solution(1 ml) was added to a methanol (20 ml) solution of 3-(1-ethyl 3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl) propionic acid ethyl ester(1.1 g). The mixture was stirred at room temperature overnight. Water was added to the reaction liquid, followed by washing with ether. A hydrochloric acid was added to the aqueous layer, followed by extraction using ethyl acetate and drying using magnesium sulfate. The dried product was condensed under reduced pressure to give the title compound(0.97 g) as a colorless oily matter.

reactant | Sodium hydroxide | 1 ml | [OH-].[Na+]
reactant | methanol | 20 ml | CO | CH4O
reactant | 3-(1-ethyl 3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl) propionic acid ethyl ester | 1.1 g | C(C)OC(CCC1=CC2=C(N(C(C(C(N2C)=O)(C)C)=O)CC)C=C1)=O | C19H26N2O4
solvent | Water | O | H2O
product | 3-(1-ethyl-3,3,5-trimethyl-2,4-dioxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-7-yl)propionic acid | 0.97 g | C(C)N1C2=C(N(C(C(C1=O)(C)C)=O)C)C=C(C=C2)CCC(=O)O | C17H22N2O4
